US05527934
In the same apparatus and procedures as EXAMPLE 1, 20.8 g (0.089 mole) 3-(methylphenyl)-1,1-dichloro-1-silabutane and 90 μl of 1% chloroplatinic acid solution in isopropanol were placed and then 3.0 g (0.036 mole) of 1, 5-hexadiene was added dropwise for 3 min. The solution was reacted for 13 hours at reflux under the dry nitrogen atmosphere. Vacuum distillation gave 15.2 g (189°-191° C./0.03 mmHg) of bis[{2-(methylphenyl)propyl}dichlorosilyl]hexane in 77.2% yield.

reactant | 3-(methylphenyl)-1,1-dichloro-1-silabutane | 0.089 mole, 20.8 g | CC1=C(C=CC=C1)C(C[SiH](Cl)Cl)C | C10H14Cl2Si
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 90 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | bis[{2-(methylphenyl)propyl}dichlorosilyl]hexane | 15.2 g, 77.2% yield | CC1=C(C=CC=C1)C(C[Si](Cl)(Cl)C(CCCCC)[Si](CC(C)C1=C(C=CC=C1)C)(Cl)Cl)C | C26H38Cl4Si2
